US09388177B2
(4-bromo-3-methoxyphenyl)(pyrrolidin-1-yl)methanone
Starting with 4-bromo-3-methoxybenzoic acid and pyrrolidine, Int02.07 was prepared analogously to the procedure for the preparation of Int02.04.

reactant | 4-bromo-3-methoxybenzoic acid | BrC1=C(C=C(C(=O)O)C=C1)OC | C8H7BrO3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (4-bromo-3-methoxyphenyl)(pyrrolidin-1-yl)methanone | BrC1=C(C=C(C=C1)C(=O)N1CCCC1)OC | C12H14BrNO2
